US07625880B2
To a 500 mL Parr flask was added 1-methyl-1-oxo-1λ5-phosphinane-4,4-dicarboxylic acid dibenzyl ester (23.0 g, 59.7 mmol). The solid was fully dissolved in ethanol (200 mL). To the solution was added palladium on carbon (10%, 1.15 g), and the flask was charged with hydrogen gas (48 psi). The flask was agitated with a mechanical shaker for 2.5 hours, after which time the starting material was completely consumed as determined by LC-MS. A large amount of white precipitate was present in the reaction mixture. Water (100 mL) and methanol (100 mL) was added to dissolve the precipitate, and the palladium on carbon was removed by filtration through celite, washing with water/methanol (1:1). The resulting filtrate was concentrated in vacuo to remove most of the methanol and ethanol. The remaining water was removed by lyophilization to provide 1-methyl-1-oxo-1λ5-phosphinane-4,4-dicarboxylic acid (12.68 g, 96%) as a white free-flowing powder. 1H NMR (400 MHz, D2O) δ 2.40-2.20 (m, 4H), 1.95-1.85 (m, 4H), 1.49 (d, J=13.3 Hz, 3H); ESMS m/z: found, 423 (221 (M+1)+, 441 (2M+1)+.

reactant | 1-methyl-1-oxo-1λ5-phosphinane-4,4-dicarboxylic acid dibenzyl ester | 59.7 mmol, 23.0 g | C(C1=CC=CC=C1)OC(=O)C1(CCP(CC1)(=O)C)C(=O)OCC1=CC=CC=C1 | C22H25O5P
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 1.15 g | [Pd] | Pd
product | 1-methyl-1-oxo-1λ5-phosphinane-4,4-dicarboxylic acid | 12.68 g, 96% | CP1(CCC(CC1)(C(=O)O)C(=O)O)=O | C8H13O5P
